US04873328
(RS)-3-(2,3-Dihydroxypropoxy)-6-isopropylidenehydrazinopyridazine hydrochloride
To a solution of (RS)-3-(2,3-dihydroxypropoxy)-6-(2-triphenylmethylhydrazino)pyridazine (3.2 g) in tetrahydrofuran (80 ml), conc. hydrochloric acid (2 ml) was added. After stirring at room temperature for 15 minutes the solution was concentrated under vacuum to small volume and diluted with acetone (50 ml). After stirring at room temperature for 30 minutes and then at 0° C. for 1 hour the precipitate was collected to yield 1.4 g of the title compound, identical to that obtained in Example 14.

reactant | (RS)-3-(2,3-dihydroxypropoxy)-6-(2-triphenylmethylhydrazino)pyridazine | 3.2 g | OC(COC=1N=NC(=CC1)NNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C26H26N4O3
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | (RS)-3-(2,3-Dihydroxypropoxy)-6-isopropylidenehydrazinopyridazine hydrochloride | 1.4 g | Cl.OC(COC=1N=NC(=CC1)NN=C(C)C)CO | InChI=1S/C10H16N4O3.ClH/c1-7(2)11-12-9-3-4-10(14-13-9)17-6-8(16)5-15;/h3-4,8,15-16H,5-6H2,1-2H3,(H,12,13);1H
